US05414084
1-[(N-Methylsulfonyl-N-methyl-amino)-sulfonyl]-3-(4,6-dimethoxy-2-pyrimidyl)urea
32.3 g of 1-[(N-methylsulfonyl-N-methylamino)-sulfonyl]-3-(N-methylsulfonyl-N-methylamino)urea are slurried in 500 ml of chlorobenzene, 15.5 g of 2-amino-4,6-di-methoxypyrimidine are added at 80° C. with stirring, and the mixture is heated for 3 hours at 80° C. After cooling to 20° C., the precipitate is filtered off and washed with 100 ml of chlorobenzene. 36.4 g of the desired product are obtained with a purity of 98.1%, corresponding to a yield of 96.8% of theory. The melting point for the product is 183°-185° C. 5.1 g of N-methylmethanesulfonamide are recovered from the filtrate by distillation, corresponding to a yield of 92.7% of theory.

reactant | 1-[(N-methylsulfonyl-N-methylamino)-sulfonyl]-3-(N-methylsulfonyl-N-methylamino)urea | 32.3 g | CS(=O)(=O)N(C)S(=O)(=O)NC(=O)NN(C)S(=O)(=O)C | C5H14N4O7S3
reactant | 2-amino-4,6-di-methoxypyrimidine | 15.5 g | NC1=NC(=CC(=N1)OC)OC | C6H9N3O2
solvent | chlorobenzene | 500 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 1-[(N-Methylsulfonyl-N-methyl-amino)-sulfonyl]-3-(4,6-dimethoxy-2-pyrimidyl)urea | 36.4 g, yield of 96.8% | CS(=O)(=O)N(C)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)OC | C9H15N5O7S2
